US08222416B2
A mixture of N-tert-butyl-4-[2-cyclopentyl-1-(5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-vinyl]-benzamide (380 mg, 0.938 mmol) and 10% palladium on activated carbon (100 mg) in methanol (250 mL) was heated at 50° C. under hydrogen (50 psi) for 6 h. The mixture was cooled to room temperature. The catalyst was removed by filtration and washed with ethyl acetate. The filtrate was concentrated in vacuo to afford N-tert-butyl-4-[2-cyclopentyl-1-(5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-ethyl]-benzamide (350 mg, 91.9%) as a white solid: LC/MS m/e calcd for C25H30FN3O [M+H]+ 408.54, observed 408.1.

reactant | N-tert-butyl-4-[2-cyclopentyl-1-(5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-vinyl]-benzamide | 0.938 mmol, 380 mg | C(C)(C)(C)NC(C1=CC=C(C=C1)C(=CC1CCCC1)C1=CC=2C(=NC=C(C2)F)N1)=O | C25H28FN3O
catalyst | palladium on activated carbon | 100 mg | [Pd] | Pd
solvent | methanol | 250 mL | CO | CH4O
product | N-tert-butyl-4-[2-cyclopentyl-1-(5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-ethyl]-benzamide | 350 mg, 91.9% | C(C)(C)(C)NC(C1=CC=C(C=C1)C(CC1CCCC1)C1=CC=2C(=NC=C(C2)F)N1)=O | C25H30FN3O
